* C:\Users\Keila\Documents\KEI UTN 2026\TdC2\tareas_semanales\TS3\con_MFB.asc
* Generated by LTspice 24.1.8 for Windows.
R1a N004 Vi 1
V1 Vi 0 AC 1
L1a N004 0 0.6265
X§U1 N001 N004 N001 opamp Aol=100K GBW=10Meg
C3b N002 N001 1
C2b N003 N002 1
C1b N002 Vo 1
R1b N002 0 0.2087
R2b Vo N003 5.4734
X§U2 N003 0 Vo opamp Aol=100K GBW=10Meg
* MFB HP reemplazando la SOS de RLC serie
.lib opamp.sub
.ac dec 2000 0.01 10
.backanno
.end
