* C:\Users\Keila\Documents\KEI UTN 2026\TdC2\tareas_semanales\TS3\solo_inductores.asc
* Generated by LTspice 24.1.8 for Windows.
R1 N002 Vi 1
R2 N003 N001 1
C1 Vo N003 0.6264
L1 N002 0 0.6265
L2 Vo 0 1.8238
X§U1 N001 N002 N001 opamp Aol=100K GBW=10Meg
V1 Vi 0 AC 1
.lib opamp.sub
.ac dec 2000 0.01 10
.backanno
.end
